US09388173B2
Step 1: 5-bromo-N-(4-methoxybenzyl)-2-nitroaniline
To a solution of 4-bromo-2-fluoro-1-nitrobenzene (500 mg, 2.27 mmol) in DMF (6 mL) was added (4-methoxyphenyl)methanamine (342 mg, 2.5 mmol) and TEA (345 mg, 3.4 mmol). The reaction mixture was then stirred at 120° C. for 30 min under microwave heating. After cooling, the mixture was diluted with water (40 mL) and the resulting precipitate collected by filtration, washed with water and dried in vacuo to give the desired product (750 mg, crude, 97% yield) which was used in next step without further purification. LCMS (m/z): 338.1 [M+H]+

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 2.27 mmol, 500 mg | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | (4-methoxyphenyl)methanamine | 2.5 mmol, 342 mg | COC1=CC=C(C=C1)CN | C8H11NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | water | 40 mL | O | H2O
product | 5-bromo-N-(4-methoxybenzyl)-2-nitroaniline | 750 mg, 97% yield | BrC=1C=CC(=C(NCC2=CC=C(C=C2)OC)C1)[N+](=O)[O-] | C14H13BrN2O3
